US06518423B1
2-Benzyl-5-aminopyridine
389 mg of 2-benzyl-5-nitropyridine was dissolved in ethyl acetate and 153 mg of 10% palladium carbon was added thereto. Then the resulting mixture was stirred under a hydrogen gas stream at room temperature under atmospheric pressure for 30 minutes. Then the reaction mixture was filtered through celite. After distilling off the solvent under reduced pressure, 333 mg of the title compound was obtained as an amber oily substance.

reactant | 2-benzyl-5-nitropyridine | 389 mg | C(C1=CC=CC=C1)C1=NC=C(C=C1)[N+](=O)[O-] | C12H10N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 153 mg | [C].[Pd]
product | 2-Benzyl-5-aminopyridine | 333 mg | C(C1=CC=CC=C1)C1=NC=C(C=C1)N | C12H12N2
